US07456288B2
To a mixture of (2-hydroxy-4-fluoro phenyl)-1-ethanone (3 g, 19.7 mmol) obtained in Preparation 5, and 4-fluorobenzaldehyde (4.37 g, 19.7 mmol) in methanol was slowly added sodium hydroxide solution at 0° C., under N2 atm. The reaction mixture was allowed to stir for 10 hours at 0-10° C. Water (100 mL) was added to it followed by 6 N HCl (15 mL). Solid separated was filtered off and dried under vacuum to afford 3 g (41%) of the title compound as a yellow solid.

reactant | (2-hydroxy-4-fluoro phenyl)-1-ethanone | 19.7 mmol, 3 g | OC1=C(C=CC(=C1)F)C(C)=O | C8H7FO2
solvent | methanol | CO | CH4O
product | 4-fluorobenzaldehyde | 19.7 mmol, 4.37 g | FC1=CC=C(C=O)C=C1 | C7H5FO
